US05834463
(3aR*,10aS*)-9-Benzyl-4-methyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta[e][1,4]diazepine hydrochloride
In ethanol was dissolved (3aR*,10aS*)-9-Benzyl-4-methyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]-cyclopenta[e][1,4]diazepine produced in Working Example 43. To the solution was added a 2.43N HCl-ethanol solution, which was concentrated under reduced pressure. The concentrate was dissolved in ethanol-ether, which was concentrated to dryness. Amorphous.

reactant | HCl ethanol | 2.43N | Cl.C(C)O
reactant | (3aR*,10aS*)-9-Benzyl-4-methyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]-cyclopenta[e][1,4]diazepine | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@H](C1)CCC3)C)C=CC=C2 | C20H24N2
solvent | ethanol | C(C)O | C2H6O
product | (3aR*,10aS*)-9-Benzyl-4-methyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta[e][1,4]diazepine hydrochloride | Cl.C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@H](C1)CCC3)C)C=CC=C2 | InChI=1S/C20H24N2.ClH/c1-21-18-13-7-10-17(18)15-22(14-16-8-3-2-4-9-16)20-12-6-5-11-19(20)21;/h2-6,8-9,11-12,17-18H,7,10,13-15H2,1H3;1H/t17-,18+;/m0./s1
